US09216999B2
(4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol
4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde (104 mg, 0.279 mmol) in methanol (3 mL) was stirred with sodium borohydride (15.8 mg, 0.418 mmol) at room temperature for 2 hours, after addition of water, the reaction mixture was extracted with chloroform twice, and the organic layers were combined, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting pale yellow oil containing the title compound was used for the next step without further purification.

reactant | 4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carbaldehyde | 0.279 mmol, 104 mg | C1(CCCCC1)NC1=C2C(=NC=C1C=O)N(C=C2)COCC[Si](C)(C)C | C20H31N3O2Si
reactant | sodium borohydride | 0.418 mmol, 15.8 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | (4-(Cyclohexylamino)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | C1(CCCCC1)NC1=C2C(=NC=C1CO)N(C=C2)COCC[Si](C)(C)C | C20H33N3O2Si
